US06090950
The 4-(hydroxymethyl)cylohexan-1-ol obtained above is treated with 1 eq. of acetic anhydride and 2 eq. of pyridine to provide 4-acetoxymethylcylohexan-1-ol.

reactant | 4-(hydroxymethyl)cylohexan-1-ol | OCC1CCC(CC1)O | C7H14O2
reactant | acetic anhydride | 1 eq. | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 2 eq. | N1=CC=CC=C1 | C5H5N
product | 4-acetoxymethylcylohexan-1-ol | C(C)(=O)OCC1CCC(CC1)O | C9H16O3
